US07709466B2
d) 2-{3-Methoxy-6-[3-methoxy-5-methylaminomethyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-pyridazin-4-yl}-indole-1-carboxylic acid tert-butyl ester
175 mg of 2-{6-[3-Formyl-5-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-3-methoxy-pyridazin-4-yl}-indole-1-carboxylic acid tert-butyl ester is dissolved in 5 ml of methanol and 0.16 ml of methylamine solution in THF is added. The solution is stirred for 10 min at RT then 19 mg of acetic acid and 20 mg of sodium cyanoborohydride is added. The reaction is stirred for 20 h at RT. The product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 118 mg. LC-MS (ES+) 621 (M+H)+.

reactant | 2-{6-[3-Formyl-5-methoxy-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-3-methoxy-pyridazin-4-yl}-indole-1-carboxylic acid tert-butyl ester | 175 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC(=C(C(=C1)OC)OCOCC[Si](C)(C)C)C=O)OC | C32H39N3O7Si
reactant | methylamine | 0.16 ml | CN | CH5N
reactant | acetic acid | 19 mg | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 20 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 2-{3-Methoxy-6-[3-methoxy-5-methylaminomethyl-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-pyridazin-4-yl}-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC(=C(C(=C1)CNC)OCOCC[Si](C)(C)C)OC)OC | C33H44N4O6Si
